Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left arm tingling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with DM2 and HLD who
presents for speech changes and left arm tingling.  

On ___, she was talking to a friend on the phone while driving
when all of a sudden, she had difficulty speaking. She felt like
her speech was slurred, but her friend said she just sounded
tired. Of note, she had nt slept in the last 2 days because she
was helping her son with his college papers. She arrived to the
hairdresser where she felt like she was still not speaking
correctly, but she was able to have an entire conversation with
her hairdresser. Entire episode lasted ___ and subsequently
resolved. 

She was evaluated in clinic ___. A stroke workup was started. 
MRI
brain showed a possible punctate left parietal lobe postcentral
gyrus acute infarct vs artifact. Carotid dopplers showed <40%
stenosis bilaterally.  

This morning, she woke up and while she was making coffee, she
noticed some tingling in her left arm in a patchy distribution.
Was not her whole arm, started at the shoulder and maybe 
involved
the medial forearm. No numbness, just tingling. This has 
happened
before in the setting of sleeping on her arm funny. Episode
lasted 10 minutes. Denies any weakness. Came into the ED because
PCP counseled her on stroke symptoms in the setting of her 
recent
speech difficulties. She took 160mg ASA this morning and came to
the ED. Last night, she had taken 325mg ASA. 

With regards to her stroke risk factors, she has been trying to
lose weight to get her A1c better. It is currently 8.6, and she
is on metformin, which was recently (this last week) increased 
to
1000mg BID, but this gave her constipation and diarrhea. She 
also
started atorvastatin 40mg and took it for the first time last
night. The goal is to get her to 80mg. 

ROS: On neurologic review of systems, the patient denies
headache, lightheadedness, or confusion. Denies difficulty with
producing or comprehending speech. Denies loss of vision, 
blurred
vision, diplopia, vertigo, tinnitus, hearing difficulty,
dysarthria, or dysphagia. Denies focal muscle weakness, 
numbness,
parasthesia. Denies loss of sensation. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain.  No recent change in
bowel or bladder habits.  Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.
 
Past Medical History:
DM2, HLD, dermatitis, eczema, obesity
 
Social History:
Husband died ___ years ago of pancreatic cancer,
son graduating from ___ next ___ and she really
wants to be at the graduation
- works in ___, also a contributor to
the ___
- tobacco: denies
- EtOH: denies
- illicits: denies
- MJ: denies

- Modified Rankin Scale:
 [X] 0: No symptoms
 [] 1: No significant disability - able to carry out all usual
activities despite some symptoms
 [] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
 [] 3: Moderate disability: requires some help but able to walk
unassisted
 [] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
 [] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
 [] 6: Dead

 
Family History:
Sister with stroke
 
Physical Exam:
===========================
ADMISSION PHYSICAL EXAM
===========================
Vitals:  T: 97.6F  HR: 114  BP: 140/86  RR: 16  SaO2: 98% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR
Pulmonary: breathing comfortably on RA
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, speech is fluent with 
full
sentences, intact repetition, and intact verbal comprehension.
Able to describe cookie picture. Naming intact.  No paraphasias. 

No dysarthria. Normal prosody. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor 
   [___]
 L   5     5    5    5    ___    5     5   5    5    5
 R   5     5    5    5    ___    5     5   5    5    5  
  
- Reflexes: 
    [Bic] [Tri] [___] [Quad] [Gastroc]
  L  1+    1+     1+      0       0
  R  1+    1+     1+      0       0  

Plantar response mute on left, downgoing on right

- Sensory: No deficits to light touch or pin throughout

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: deferred

===========================
DISCHARGE PHYSICAL EXAM
===========================
 
Pertinent Results:
======
LABS
======
___ 07:20AM BLOOD WBC-8.5 RBC-4.32 Hgb-12.4 Hct-38.7 MCV-90 
MCH-28.7 MCHC-32.0 RDW-14.7 RDWSD-48.7* Plt ___
___ 03:58PM BLOOD ___ PTT-32.4 ___
___ 07:20AM BLOOD Glucose-210* UreaN-12 Creat-0.7 Na-139 
K-4.6 Cl-101 HCO3-25 AnGap-18
___ 02:04PM BLOOD ALT-16 AST-49* AlkPhos-73 TotBili-0.2
___ 02:04PM BLOOD cTropnT-<0.01
___ 07:20AM BLOOD Calcium-9.6 Phos-3.8 Mg-2.0
___ 02:04PM BLOOD Albumin-4.3
___ 02:04PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

==========
IMAGING
==========

 
Brief Hospital Course:
Ms. ___ is a ___ woman with multiple vascular risk factors 
and a recent transient ischemic attack (transient speech 
difficulty with outpatient MRI ___ revealing a L parietal 
lobe punctate infarct vs artifact) who presented ___ with 10 
minutes of patchy left arm tingling. She was admitted to the 
stroke service for monitoring due to her recent TIA. She had a 
CTA head and neck in the ED that revealed mild atherosclerosis 
changes. ___ did not show any acute intracranial 
abnormalities.

While on the stroke service, she remained neurologically intact 
and felt well. Her A1C was 8.9 and LDL 134. She did not have 
atrial fibrillation on telemetry monitoring. For secondary 
stroke prevention, she was continued on aspirin 81mg daily and 
her atorvastatin was increased to 80mg daily. Her presenting 
symptoms were ultimately felt to be due to cervical spondylosis 
with radiculopathy vs. a compression neuropathy (these symptoms 
occurred after sleeping on her arm). She was discharged with 
plans for close neurological follow-up and outpatient 
echocardiogram given her recent possible infarct (although the 
finding on MRI was suspicious for artifact).

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. MetFORMIN (Glucophage) 1000 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM  
2.  Aspirin 81 mg PO DAILY  
3.  MetFORMIN (Glucophage) 1000 mg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
Cervical spondylosis/radiculopathy versus compressive neuropathy

Secondary diagnosis:
Diabetes mellitus (type 2)
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after experiencing transient 
left arm tingling. This was in the setting of a recent episode 
of difficulty speaking with MRI revealing possibly a small 
stroke (versus artifact). We observed you in the hospital and 
you did not have any recurrent neurologic symptoms. You have a 
CT scan of your head and an CT angiogram of the blood vessels in 
your head and neck which was reassuring (you only have mild 
plaque, or atherosclerosis, in your blood vessels).

The tingling in your left arm may have been due to your sleeping 
position, you may have compressed an nerve. We do not have a 
high concern that this represented a recurrent stroke.

For stroke prevention, we recommend you continue to take aspirin 
81mg daily and atorvastatin 80 mg daily. Please continue all of 
your additional home medications including your diabetic 
medications.

Please followup with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

We wish you all the best!
 
Followup Instructions:
___